US03956314
30 g. of ethyl 4-amino-3-p-chlorophenyl-2-phenyl-butyrate are heated for 15 minutes at 150°C. Liberation of ethanol is observed. The reaction medium is taken up in 120 ml. of toluene and the resulting solution is filered. After cooling the solution, the crystals formed are separated and recrystallized several times from toluene. 12 g. of 4-p-chlorophenyl-3-phenyl-2-pyrrolidinone are obtained; m.p. 148°-151°C. Nuclear magnetic resonance analysis shows that it is the cis-isomer.

reactant | ethyl 4-amino-3-p-chlorophenyl-2-phenyl-butyrate | NCC(C(C(=O)OCC)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C18H20ClNO2
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-p-chlorophenyl-3-phenyl-2-pyrrolidinone | ClC1=CC=C(C=C1)C1C(C(NC1)=O)C1=CC=CC=C1 | C16H14ClNO
